US09107958B2
N-(4-Chloroquinolin-3-yl)valeramide (1.97 g), benzyl (4-aminooxybutyl)carbamate (2.99 g), triethylamine (0.89 g) and 2-propanol (40.69 g) were combined and heated at 80° C. for 3.5 hours. The reaction was cooled to room temperature, filtered, and the filtrate concentrated under reduced pressure. Dichloromethane (20 mL) was added to the resulting solid and the mixture was stirred for twenty minutes. Undissolved solid was removed by filtration and the filtrate was washed with two 10 mL portions of water that had been made slightly acidic by the addition of 20 drops of hydrochloric acid (1.2 M). The organic fraction was dried and concentrated under reduced pressure. The crude solid was recrystallized from tetrahydrofuran to provide 2.56 g of benzyl 4-{[2-butyl-1H-imidazo[4,5-c]quinolin-1-yl]oxy}butylcarbamate.

reactant | N-(4-Chloroquinolin-3-yl)valeramide | 1.97 g | ClC1=C(C=NC2=CC=CC=C12)NC(CCCC)=O | C14H15ClN2O
reactant | benzyl (4-aminooxybutyl)carbamate | 2.99 g | NOCCCCNC(OCC1=CC=CC=C1)=O | C12H18N2O3
reactant | triethylamine | 0.89 g | C(C)N(CC)CC | C6H15N
solvent | 2-propanol | 40.69 g | CC(C)O | C3H8O
product | benzyl 4-{[2-butyl-1H-imidazo[4,5-c]quinolin-1-yl]oxy}butylcarbamate | 2.56 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)OCCCCNC(OCC1=CC=CC=C1)=O | C26H30N4O3
